US07648983B2
A solution of (S)-1-benzoyl-3-[1-(5-bromo-2-fluoro-phenyl)-3-hydroxy-1-methyl-propyl]-thiourea (0.79 g, 1.8 mmoles) and aqueous HCl (5 N, 25 mL, 71 mmoles) is warmed to 100° C. After stirring for 6 h, the reaction is cooled to ambient temperature and allowed to stand overnight. The reaction is concentrated under reduced pressure to give crude (S)-4-(5-bromo-2-fluorophenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-amine hydrochloride [MS (m/z): 303, 305 (M+1)].

reactant | (S)-1-benzoyl-3-[1-(5-bromo-2-fluoro-phenyl)-3-hydroxy-1-methyl-propyl]-thiourea | 1.8 mmoles, 0.79 g | C(C1=CC=CC=C1)(=O)NC(=S)N[C@](CCO)(C)C1=C(C=CC(=C1)Br)F | C18H18BrFN2O2S
reactant | HCl | 71 mmoles, 5 N, 25 mL | Cl | ClH
product | (S)-4-(5-bromo-2-fluorophenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-amine hydrochloride | Cl.BrC=1C=CC(=C(C1)[C@]1(N=C(SCC1)N)C)F | InChI=1S/C11H12BrFN2S.ClH/c1-11(4-5-16-10(14)15-11)8-6-7(12)2-3-9(8)13;/h2-3,6H,4-5H2,1H3,(H2,14,15);1H/t11-;/m0./s1
